US07446118B2
To a stirring mixture of 1-bromo-4-methoxy-2-methyl-3-nitrobenzene (2.0 g, 8.13 mmol, see Tet. Lett., 2002, 43, 1063) in NH4OH (40 ml) was added a solution of (NH4)2Fe(SO4)2 (19.1 g, 48.8 mmol) in H2O (40 ml). The reaction mixture was stirred at reflux for 4 hours, cooled to room temperature, diluted with Et2O (120 ml), and filtered through celite. The filter cake was washed with Et2O. The aqueous layer was extracted with Et2O (50 ml). The combined organic layers were concentrated, and the residue was dissolved in Et2O and extracted with HCl (1M, 30 ml). The aqueous layer was basified until about pH 4 by addition of (NaOH 50%, 10 ml) and extracted with Et2O. The combined organic layers were dried over MgSO4, filtered, and concentrated affording 3-Bromo-6-methoxy-2-methyl-phenylamine CXCV as an off-white solid (0.98 g, 56% yield).

reactant | 1-bromo-4-methoxy-2-methyl-3-nitrobenzene | 8.13 mmol, 2.0 g | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])C | C8H8BrNO3
solvent | NH4OH | 40 ml | [NH4+].[OH-]
solvent | H2O | 40 ml | O | H2O
solvent | Et2O | 120 ml | CCOCC | C4H10O
product | 3-Bromo-6-methoxy-2-methyl-phenylamine | BrC=1C(=C(C(=CC1)OC)N)C | C8H10BrNO
